US04810719
2-(1-Phenyl-1H-pyrazol-3-yl)aminothiazol-4-ol
A solution of N-(1-phenyl-1H-pyrazol-3-yl)thiourea (4.2 g) and ethyl 2-chloroethanoate (3.0 g) in ethyl alcohol (50 ml) was heated under reflux for 2 hours. The mixture was cooled and the title compound collected by filtration as a yellow solid 4.0 g, mp >230°.

reactant | N-(1-phenyl-1H-pyrazol-3-yl)thiourea | 4.2 g | C1(=CC=CC=C1)N1N=C(C=C1)NC(=S)N | C10H10N4S
reactant | ethyl 2-chloroethanoate | 3.0 g | ClCC(=O)OCC | C4H7ClO2
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
product | 2-(1-Phenyl-1H-pyrazol-3-yl)aminothiazol-4-ol | C1(=CC=CC=C1)N1N=C(C=C1)NC=1SC=C(N1)O | C12H10N4OS
